US08754226B2
(2R,3R)-2-(Benzyloxy)-3-hydroxysuccinic acid (11.1 g, 46.2 mmol) was dissolved in 2,2-dimethoxypropane (46 mL, 374 mmol) and 4-methylbenzenesulfonic acid hydrate (0.0879 g, 0.462 mmol) was added and the reaction was stirred at ambient temperature for 4 hours. Water (30 mL) and NaHCO3 (0.0388 g, 0.462 mmol) were added and extracted with CH2Cl2, dried over Na2SO4, filtered and concentrated to provide (R)-2-(benzyloxy)-2-((R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)acetic acid. The crude product was taken on to next step without further purification.

reactant | (2R,3R)-2-(Benzyloxy)-3-hydroxysuccinic acid | 46.2 mmol, 11.1 g | C(C1=CC=CC=C1)O[C@@H](C(=O)O)[C@H](C(=O)O)O | C11H12O6
reactant | 2,2-dimethoxypropane | 374 mmol, 46 mL | COC(C)(C)OC | C5H12O2
reactant | 4-methylbenzenesulfonic acid hydrate | 0.462 mmol, 0.0879 g | O.CC1=CC=C(C=C1)S(=O)(=O)O
reactant | NaHCO3 | 0.462 mmol, 0.0388 g | C(=O)(O)[O-].[Na+]
solvent | Water | 30 mL | O | H2O
product | (R)-2-(benzyloxy)-2-((R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)acetic acid | C(C1=CC=CC=C1)O[C@@H](C(=O)O)[C@H]1OC(OC1=O)(C)C | C14H16O6
